US06184225B2
A mixture of 6-methoxy-4-phenoxy-7-(2-thiomorpholinoethoxy)quinazoline (2.0 g, 5 mmol) in 2M hydrochloric acid (25 ml) was heated at 90° C. for 1.5 hours. The mixture was allowed to cool and adjusted to pH7 with solid sodium hydrogen carbonate. Methylene chloride was added and the resulting semi-solid product was isolated by decanting and filtering the aqueous mixture. This product was dissolved in acetone and insoluble material was removed by filtration. The solvent was removed by evaporation and the residue azeotroped with toluene to give 6-methoxy-7-(2-thiomorpholinoethoxy)-3,4-dihydroquinazolin-4-one (1.5 g, 92%) as a white solid.

reactant | 6-methoxy-4-phenoxy-7-(2-thiomorpholinoethoxy)quinazoline | 5 mmol, 2.0 g | COC=1C=C2C(=NC=NC2=CC1OCCN1CCSCC1)OC1=CC=CC=C1 | C21H23N3O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 2M, 25 ml | Cl | ClH
product | 6-methoxy-7-(2-thiomorpholinoethoxy)-3,4-dihydroquinazolin-4-one | 1.5 g, 92% | COC=1C=C2C(NC=NC2=CC1OCCN1CCSCC1)=O | C15H19N3O3S
